US04293690
A solution of 840 g of 5-amino-1-(2,3,5-tri-O-propionyl-β-D-ribofuranosyl)imidazole-4-carboxamide, 5.4 l of dichloromethane and 1.38 l of triethylamine was cooled to 0° C. or less, and a solution of 196 ml of phosphorus oxychloride in dichloromethane (1.8 l) was added dropwise thereto while maintaining the temperature below 0° C. After stirring for 1.5 hours, 2 l of water was added to the mixture below 0° C. and the dichloromethane layer was separated. The dichloromethane layer was washed successively with 2 l each of water, twice with 2 l of 1 N hydrochloric acid, and twice with 2 l each of a saturated aqueous sodium chloride solution, and then concentrated to dryness under reduced pressure to obtain 5-amino-1-(2,3,5-tri-O-propionyl-β-D-ribofuranosyl)imidazole-4-carbonitrile as a yellow brown viscous syrup.

reactant | 5-amino-1-(2,3,5-tri-O-propionyl-β-D-ribofuranosyl)imidazole-4-carboxamide | 840 g | NC1=C(N=CN1[C@H]1[C@H](OC(CC)=O)[C@H](OC(CC)=O)[C@H](O1)COC(CC)=O)C(=O)N | C18H26N4O8
reactant | triethylamine | 1.38 l | C(C)N(CC)CC | C6H15N
reactant | phosphorus oxychloride | 196 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | 2 l | O | H2O
solvent | dichloromethane | 1.8 l | ClCCl | CH2Cl2
solvent | dichloromethane | 5.4 l | ClCCl | CH2Cl2
product | 5-amino-1-(2,3,5-tri-O-propionyl-β-D-ribofuranosyl)imidazole-4-carbonitrile | NC1=C(N=CN1[C@H]1[C@H](OC(CC)=O)[C@H](OC(CC)=O)[C@H](O1)COC(CC)=O)C#N | C18H24N4O7
